US05547857
A culture broth of Flavobacterium rhenanum FERM BP-1862 was prepared according to Example 1 of JP 2-23882. 5-Methyluracil and guanosine as substrates were added without removing the culture medium ingredients of the strain culture solution, and were reacted while keeping the temperature at 60° C. in the same manner as in Example 1 of the present invention. The reaction solution was cooled, filtered, decolored with activated carbon, refiltered and concentrated in vacuo. The concentrate was recooled to 5° C. The particle diameter of the obtained 5-methyluridine crystals was from 20 to 30 μm. The separation phenomenon of 5-methyluridine crystals from other crystals of nucleic acids formed as impurities was not observed. Further, the centrifugal separation took much time.

reactant | 5-Methyluracil | CC=1C(NC(NC1)=O)=O | C5H6N2O2
reactant | guanosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
product | 5-methyluridine | CC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C10H14N2O6
